US04085111
A mixture of 4.8 g of 5-oxo-5H-[1]benzothiopyrano[2,3-b]pyridine-7-carbonitrile, 80 ml of dimethylformamide, 1.35 g. of ammonium chloride and 1.7 g of sodium azide is heated with stirring at 110° C to 120° C for 20 hours. After cooling, crystals are filtered off and added to a dilute hydrochloric acid, and the mixture is stirred. The crystals are filtered off, washed with water and recrystallized from dimethylformamide to give 3.8 g of 7-(5-1H-tetrazolyl)-5-oxo-5H-[1]benzothiopyrano[2,3-b]pyridine melting at above 300° C.

reactant | 5-oxo-5H-[1]benzothiopyrano[2,3-b]pyridine-7-carbonitrile | 4.8 g | O=C1C2=C(SC3=NC=CC=C31)C=CC(=C2)C#N | C13H6N2OS
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | sodium azide | 1.7 g | [N-]=[N+]=[N-].[Na+]
solvent | dimethylformamide | 80 ml | CN(C=O)C | C3H7NO
product | 7-(5-1H-tetrazolyl)-5-oxo-5H-[1]benzothiopyrano[2,3-b]pyridine | 3.8 g | N1N=NN=C1C=1C=CC2=C(C(C=3C(=NC=CC3)S2)=O)C1 | C13H7N5OS
